US07662841B2
A solution of N-methoxy-N-methyl-2-bromoimidazo[5,1-b]thiazole-7-carboxamide (54 mg, 0.19 mmol) in dichloromethane (5 ml) was cooled to −78° C. A solution of dibutylaluminium hydride in toluene (1.01 M solution; 0.4 ml, 0.42 mmol) was added dropwise to the cooled solution, and the mixture was stirred at the same temperature for 3 hr. After the completion of the reaction, a saturated aqueous potassium sodium tartrate solution was added thereto, the mixture was stirred at room temperature for one hr, and the mixture was extracted with ethyl acetate (5 ml×3). The organic layer was washed with saturated brine and was then dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography on silica gel (ethyl acetate:methanol=60:1) to give 2-bromoimidazo[5,1-b]thiazole-7-carbaldehyde (17 mg, 39%) as a white solid.

reactant | N-methoxy-N-methyl-2-bromoimidazo[5,1-b]thiazole-7-carboxamide | 0.19 mmol, 54 mg | CON(C(=O)C=1N=CN2C1SC(=C2)Br)C | C8H8BrN3O2S
reactant | dibutylaluminium hydride | [H-].C(CCC)[Al+]CCCC
reactant | toluene | 0.42 mmol, 1.01 M, 0.4 ml | C1(=CC=CC=C1)C | C7H8
reactant | potassium sodium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-bromoimidazo[5,1-b]thiazole-7-carbaldehyde | 17 mg, 39% | BrC1=CN2C(S1)=C(N=C2)C=O | C6H3BrN2OS
